### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/LineGraph): lift copies/isomorphisms to line-graph

### PR DESCRIPTION
**Pull request by SnirBroshi**
Non-injective homomorphisms (`G →g G'`) cannot be lifted to a homomorphism on line-graphs (`G.lineGraph →g G'.lineGraph`) because e.g. `∀ k > 1` there is a homomorphism from `pathGraph k` to `G'` iff `G'` has an edge, and `∀ n > 0, (pathGraph (n + 1)).lineGraph ≃ pathGraph n`, but there is no homomorphism from `pathGraph k` to `pathGraph 1` because it has no edges.
So for `G := pathGraph 3` and `G' := pathGraph 2` there is a `G →g G'` but no `G.lineGraph →g G'.lineGraph`.

But we can lift `Copy`/`Embedding`/`Iso`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/LineGraph.lean [hunk 1]
```diff
@@ -40,4 +41,42 @@ lemma lineGraph_adj_iff_exists {e₁ e₂ : G.edgeSet} :
 
 @[simp] lemma lineGraph_bot : (⊥ : SimpleGraph V).lineGraph = ⊥ := by aesop (add simp lineGraph)
 
+/-- Lift a copy between graphs to an embedding between their line graphs -/
+def Embedding.ofLineGraph (f : Copy G G') : G.lineGraph ↪g G'.lineGraph where
```
Comment (tb65536) [inline Mathlib/Combinatorics/SimpleGraph/LineGraph.lean]:
```suggestion
def Copy.toEmbeddingLineGraph (f : Copy G G') : G.lineGraph ↪g G'.lineGraph where
```

File: Mathlib/Combinatorics/SimpleGraph/LineGraph.lean [hunk 2]
```diff
@@ -40,4 +41,42 @@ lemma lineGraph_adj_iff_exists {e₁ e₂ : G.edgeSet} :
...
+
+/-- Lift a copy between graphs to a copy between their line graphs -/
+def Copy.ofLineGraph (f : Copy G G') : Copy G.lineGraph G'.lineGraph :=
+  Embedding.ofLineGraph f |>.toCopy
+
+theorem IsContained.lineGraph (h : G ⊑ G') : G.lineGraph ⊑ G'.lineGraph :=
+  ⟨h.some.ofLineGraph⟩
+
+/-- Lift an isomorphism between graphs to an isomorphism between their line graphs -/
+def Iso.ofLineGraph (f : G ≃g G') : G.lineGraph ≃g G'.lineGraph where
```
Comment (tb65536) [inline Mathlib/Combinatorics/SimpleGraph/LineGraph.lean]:
```suggestion
def Iso.lineGraph (f : G ≃g G') : G.lineGraph ≃g G'.lineGraph where
```

File: Mathlib/Combinatorics/SimpleGraph/LineGraph.lean [hunk 3]
```diff
@@ -40,4 +41,42 @@ lemma lineGraph_adj_iff_exists {e₁ e₂ : G.edgeSet} :
...
+theorem IsIndContained.lineGraph (h : G ⊴ G') : G.lineGraph ⊴ G'.lineGraph :=
+  ⟨.ofLineGraph h.some.toCopy⟩
+
+theorem IsIndContained.lineGraph_of_isContained (h : G ⊑ G') : G.lineGraph ⊴ G'.lineGraph :=
+  ⟨.ofLineGraph h.some⟩
+
+alias IsContained.isIndContained_lineGraph := IsIndContained.lineGraph_of_isContained
+
+/-- Lift a copy between graphs to a copy between their line graphs -/
+def Copy.ofLineGraph (f : Copy G G') : Copy G.lineGraph G'.lineGraph :=
```
Comment (tb65536) [inline Mathlib/Combinatorics/SimpleGraph/LineGraph.lean]:
```suggestion
def Copy.lineGraph (f : Copy G G') : Copy G.lineGraph G'.lineGraph :=
```

File: Mathlib/Combinatorics/SimpleGraph/LineGraph.lean [hunk 4]
```diff
@@ -40,4 +41,42 @@ lemma lineGraph_adj_iff_exists {e₁ e₂ : G.edgeSet} :
...
+  map_rel_iff' := by
+    simp only [lineGraph, Function.Embedding.coeFn_mk, Sym2.coe_map, ne_eq]
+    refine .and ?_ <| Set.image_inter f.injective ▸ Set.image_nonempty
+    rw [Subtype.mk.injEq, Subtype.mk.injEq]
+    exact Sym2.map.injective f.injective |>.eq_iff.not
+
+theorem IsIndContained.lineGraph (h : G ⊴ G') : G.lineGraph ⊴ G'.lineGraph :=
+  ⟨.ofLineGraph h.some.toCopy⟩
+
+theorem IsIndContained.lineGraph_of_isContained (h : G ⊑ G') : G.lineGraph ⊴ G'.lineGraph :=
```
Comment (tb65536) [inline Mathlib/Combinatorics/SimpleGraph/LineGraph.lean]:
```suggestion
theorem IsContained.isIndContained_lineGraph (h : G ⊑ G') : G.lineGraph ⊴ G'.lineGraph :=
```

File: Mathlib/Combinatorics/SimpleGraph/LineGraph.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/LineGraph.lean]: Changed to `Copy.toLineGraphEmbedding` to adhere to the naming convention since `Embedding` is infix, though I'm not sure about separating it from the `to`
